US04298739
To a solution of 2.9 g of 5-(6-carboxyhexyloxy)-3,4-dihydrocarbostyril and 1.9 g of N-benzylcyclohexylamine in 100 ml of DMF is added gradually dropwise a solution of 2.1 g of N,N'-dicyclohexylcarbodiimide in 10 ml of DMF at room temperature and under agitation. After this agitation, the mixture is further agitated at room temperature for 5 hours. After the reaction, the insolubles are filtered off and the mother liquor is concentrated. The residue is dissolved in chloroform and subjected to silica gel thin-layer chromatography (solvent: chloroform-methanol (8:1) to scrape out the portion with Rf value of 0.8. The silica gel is extracted with chloroform, and after distilling off chloroform, the residue is recrystallized from benzene-ligroin to obtain 1.1 g of 5-[6-(N-cyclohexyl-N-benzylaminocarbonyl)hexyloxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with melting point of 49°-52° C.

reactant | 5-(6-carboxyhexyloxy)-3,4-dihydrocarbostyril | 2.9 g | C(=O)(O)CCCCCCOC1=C2CCC(NC2=CC=C1)=O | C16H21NO4
reactant | N-benzylcyclohexylamine | 1.9 g | C(C1=CC=CC=C1)NC1CCCCC1 | C13H19N
reactant | N,N'-dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-[6-(N-cyclohexyl-N-benzylaminocarbonyl)hexyloxy]-3,4-dihydrocarbostyril | 1.1 g | C1(CCCCC1)N(C(=O)CCCCCCOC1=C2CCC(NC2=CC=C1)=O)CC1=CC=CC=C1 | C29H38N2O3
